* C:\users\phil\Documents\Made\git-prj\signal\spice\JupE\Tx\Regul_I2.asc
R1 E1 V1 {R1}
R2 E1 N001 {Rs}
L1 N001 0 {Ls}
L2 E1 0 {Lm}
R3 E1 0 {Rm}
B1 V1 0 V=Vgen(A,Fs)
.PARAM A=2.54 Fs=500 m=1/7
.PARAM R1=0.38
.tran 0.1
.func Vgen(A,f)={A*sin(2*pi*f*time)}
.MEAS Rmv PARAM Rm 
.MEAS Lmv PARAM Lm
.MEAS Rsv PARAM Rs
.MEAS Lsv PARAM Ls
.MEAS I2v RMS I(L1)/m
.MEAS Igen RMS I(B1) 
.MEAS Vgen RMS V(V1)
.MEAS Zload PARAM Vgen/Igen
.MEAS V1v PARAM V1_c
.MEAS Zeqv PARAM Zeq
.INCLUDE func.txt
.PARAM ModZm=0.81 ArgZm=0.4
.PARAM ModZs=0.035 ArgZs=1.2
.PARAM Rm=ModZm/cos(ArgZm)-R1 Lm=ModZm/(2*pi*Fs*sin(ArgZm))
.PARAM Rs=ModZs*cos(ArgZs) Ls=ModZs*sin(ArgZs)/(2*pi*Fs)
.PARAM V1_c=eval_V1(Rs,Ls,Rm,Lm,R1,m,Fs,0.5)
.PARAM Zeq=ModZeq(Rs,2*pi*Fs*Ls,Rm,2*pi*Fs*Lm,R1,m)
.backanno
.end
